US07517873B2
A solution of 1.53 g (0.004 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclohexyl-amino]-propionic acid tert-butyl ester (IV-20) in 20 mL of ethyl acetate was added in portions over 10 minutes to a mixture of 2.69 g (0.012 mole) of stannous chloride dihydrate, 12 mL of ethanol and 0.5 mL of hydrochloric acid. The mixture was stirred overnight and then diluted with 30 mL of water and extracted with ethyl acetate. The ethyl acetate extract was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-92:8) to give 0.47 g of 2-chloro-9-cyclohexyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-20).

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclohexyl-amino]-propionic acid tert-butyl ester | 0.004 mole, 1.53 g | C(C)(C)(C)OC(CCN(C1CCCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C17H25ClN4O4
reactant | ethanol | 12 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | 2-chloro-9-cyclohexyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.47 g | ClC=1N=CC2=C(N(CCC(N2)=O)C2CCCCC2)N1 | C13H17ClN4O
